US05624941
A) 1-(4-chlorophenyl)-1-trimethylsilyloxypropene
13.47 g of chlorotrimethylsilane are slowly added to 12.55 g of triethylamine, under a nitrogen atmosphere, at 20°±3° C. 16.86 g of 4-chloropropiophenone (endothermic mixture) and then a solution of 18.58 g of sodium iodide in 125 ml of acetonitrile are further added while maintaining the temperature at 18°±2° C. The mixture is then heated for 3 hours at 40°±5° C., the acetonitrile is removed under reduced pressure and 150 ml of toluene are added to the solid residue. 50 ml of solvent are distilled under reduced pressure to drive the residual acetonitrile off. The inorganic materials are extracted with 100 ml of iced water, the organic phase is washed with 100 ml of iced water and dried over magnesium sulfate. The toluene is removed under reduced pressure and complete removal of the solvents is performed for 15 hours at 60° C. under a pressure of 1 mbar to give 22.7 g of an oil. NMR run at 200 MHz (CDCl3) 0.13 ppm:s:9H 1.7 ppm:d:3H 5.28 ppm:q:1H 7.21-7.39 ppm:m:4H.

reactant | chlorotrimethylsilane | 13.47 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 12.55 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloropropiophenone | 16.86 g | CCC(=O)C1=CC=C(C=C1)Cl | C9H9ClO
reactant | sodium iodide | 18.58 g | [I-].[Na+]
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenyl)-1-trimethylsilyloxypropene | 22.7 g | ClC1=CC=C(C=C1)C(=CC)O[Si](C)(C)C | C12H17ClOSi
